US04220644
1-Carboxymethyltetrazole-5-thiol and 1,1-carbonyl-diimidazole were reacted as described in Example 4. To the reaction mixture was added tetrahydrofuran saturated with dry ammonia gas. The resulting suspension was stirred for 2.5 hours and the solid which formed was collected by filtration, washed with tetrahydrofuran and dissolved in methanol. Amberlite IR-120 ion-exchange resin (50 g.) was added and the suspension was stirred for 15 minutes. The resin was then removed and washed with absolute methanol. The methanol solution was concentrated to give 1- carbamoylmethyltetrazole-5-thiol, m.p. 200° (dec.).

reactant | 1-Carboxymethyltetrazole-5-thiol | C(=O)(O)CN1N=NN=C1S | C3H4N4O2S
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1- carbamoylmethyltetrazole-5-thiol | C(N)(=O)CN1N=NN=C1S | C3H5N5OS
